US05114960
0.22 g of methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylate was dissolved in 12 ml of methanol, 0.19 g of wet Raney-nickel was added and the mixture was hydrogenolyzed at 3.4 atmospheres and at room temperature for 30 hours. The catalyst was removed by filtration and washed on the filter firstly with ethanol and then with dichloromethane. The filtrate was evaporated and the residue was purified by chromatography on silica gel using ethyl acetate for the elution. There was obtained 0.155 g of methyl 4-[(4-chlorophenyl)(amino)methylene]-3-oxocycloheptanecarboxylate of melting point 154°-155° C.

reactant | methyl 3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4H-cyclohept[d]isoxazole-7-carboxylate | 0.22 g | ClC1=CC=C(C=C1)C1=NOC2=C1CCCC(C2)C(=O)OC | C16H16ClNO3
solvent | methanol | 12 ml | CO | CH4O
catalyst | Raney-nickel | 0.19 g | [Ni] | Ni
product | methyl 4-[(4-chlorophenyl)(amino)methylene]-3-oxocycloheptanecarboxylate | 0.155 g | ClC1=CC=C(C=C1)C(=C1C(CC(CCC1)C(=O)OC)=O)N | C16H18ClNO3
